US07115591B2
2-(3-Chloro-4-fluorophenyl)-4-(4-fluorobenzyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 62 substituting 4-(4-fluorophenylmethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 4-bromo-2-chloro-1-fluorobenzene in place of 4-iodo-1-fluorobenzene (yield: 0.110 g, 74%). mp 153–156° C. 1H NMR (300 MHz, DMSO d6) δ 3.30 (s, 3H), 3.89 (bs, 2H), 7.02–7.07 (m, 4H), 7.59 (m, 1H), 7.65–7.72 (m, 4H), 8.07 (m, 2H), 8.12 (s, 1H). MS (DCI/NH3) m/z 487 (M+H)+, 504 (M+NH4)+. Anal. calc. for C24H17ClF2N2O3S.0.25 H2O: C, 58.65; H, 3.58; N, 5.64. Found: C, 58.41; H, 3.56; N, 5.36.

reactant | 4-(4-fluorophenylmethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)CC=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C18H15FN2O3S
reactant | 4-bromo-2-chloro-1-fluorobenzene | BrC1=CC(=C(C=C1)F)Cl | C6H3BrClF
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(3-Chloro-4-fluorophenyl)-4-(4-fluorobenzyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1F)N1N=CC(=C(C1=O)CC1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C24H17ClF2N2O3S
